US04065473
Preparation of 3-[3-(4-Fluorobenzoyl)propyl]-2,3,4,5-tetrahydro-7,8-methylenedioxy-1H-3-benzazepine hydrochloride
The sodium hydride obtained by washing 1.95 g of the 54% dispersion (0.042 moles) with benzene was used to prepare the sodium salt from 4.54 g. of 2,3,4,5-tetrahydro-7,8-methylenedioxy-1H-3-benzazepine hydrochloride in 50 ml of DMF as described in Example 35. Treatment of the suspension with 4.41 g of 3-(4-fluorobenzoyl)propyl chloride (0.022 moles) for 24 hours at 55°-60° followed by decomposition with 200 ml of ice water gave an oil-water suspension. The base was recovered by extraction with benzene (3 × 50 ml), the combined extracts washed once with water, then dried, and the solvent distilled in the rotary evaporator. To the residual oil, 3N hydrochloric acid was added and the mixture digested for an hour. After cooling the salt was filtered off, mp 195°14 197°. Two further recrystallizations from water gave the above-named product as a buff colored salt, mp 209°-210°.

reactant | sodium hydride | [H-].[Na+]
reactant | 2,3,4,5-tetrahydro-7,8-methylenedioxy-1H-3-benzazepine hydrochloride | Cl.C1OC2=CC3=C(CCNCC3)C=C2O1
reactant | 3-(4-fluorobenzoyl)propyl chloride | 0.022 moles, 4.41 g | FC1=CC=C(C(=O)CCCCl)C=C1 | C10H10ClFO
reactant | water | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 3-[3-(4-Fluorobenzoyl)propyl]-2,3,4,5-tetrahydro-7,8-methylenedioxy-1H-3-benzazepine hydrochloride | Cl.FC1=CC=C(C(=O)CCCN2CCC3=C(CC2)C=C2C(=C3)OCO2)C=C1 | InChI=1S/C21H22FNO3.ClH/c22-18-5-3-15(4-6-18)19(24)2-1-9-23-10-7-16-12-20-21(26-14-25-20)13-17(16)8-11-23;/h3-6,12-13H,1-2,7-11,14H2;1H
